US09301951B2
N-(2-methoxyethyl)-3-(methylamino)propanamide
To a solution of 3-(benzyl(methyl)amino)-N-(2-methoxyethyl)propanamide (1.1 g, 4.39 mmol, 1.00 equiv) in methanol (50 mL) was added 5% palladium-on-carbon (50 mg) and the suspension stirred under a hydrogen atmosphere for 2 h. The solids were filtered out and the mixture was concentrated under vacuum to afford 200 mg (28%) of the product as a white solid.

reactant | 3-(benzyl(methyl)amino)-N-(2-methoxyethyl)propanamide | 4.39 mmol, 1.1 g, 1.00 equiv | C(C1=CC=CC=C1)N(CCC(=O)NCCOC)C | C14H22N2O2
solvent | methanol | 50 mL | CO | CH4O
catalyst | palladium-on-carbon | 50 mg | [Pd] | Pd
product | N-(2-methoxyethyl)-3-(methylamino)propanamide | 200 mg, 28% | COCCNC(CCNC)=O | C7H16N2O2
